US07648987B2
1-(8-Fluoro-2-phenyl-quinolin-7-yl)-3-(5-methanesulfonylmethylthiazol-2-ylsulfanyl)-imidazo[1,5-a]pyrazin-8-ylamine
A 10 mL microwave vessel was charged with a solution of 8-amino-1-(8-fluoro-2-phenyl-quinolin-7-yl)-2H-imidazo[1,5-a]pyrazine-3-thione (24 mg, 0.000062 mol), 2-chloro-5-[(methylsulfonyl)methyl]-1,3-thiazole (0.026 g, 0.00012 mol), potassium carbonate in DMF (1.7 mL, 0.022 mol). The reaction mixture was heated in the microwave at 100° C. for 10 min. The reaction mixture was heated again at 120° C. for 10 min in the microwave to get full consumption of SM. Reaction mixture was purified by Gilson HPLC eluting with 10→65% acetonitrile: H2O to afford the title compound as an off white solid. 1H NMR (400 MHz, CDCl3): δ=2.85 (s, 3H), 4.36 (s, 2H), 7.34 (d, J=4.80 Hz, 1H), 7.48-7.59 (m, 4H), 7.67 (s, 1H), 7.74-7.78 (m, 2H), 8.04 (d, J=8.84 Hz, 1H), 8.24 (dd, J=8.21, 1.39 Hz, 2H), 8.31 (dd, J=8.72, 1.39 Hz, 1H). MS (ES+): m/z 563.18 (100) [MH+]. HPLC: tR=2.89 min (Open Lynx polar—5 min).

reactant | 8-amino-1-(8-fluoro-2-phenyl-quinolin-7-yl)-2H-imidazo[1,5-a]pyrazine-3-thione | 0.000062 mol, 24 mg | NC=1C=2N(C=CN1)C(NC2C2=CC=C1C=CC(=NC1=C2F)C2=CC=CC=C2)=S | C21H14FN5S
reactant | 2-chloro-5-[(methylsulfonyl)methyl]-1,3-thiazole | 0.00012 mol, 0.026 g | ClC=1SC(=CN1)CS(=O)(=O)C | C5H6ClNO2S2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 0.022 mol, 1.7 mL | CN(C)C=O | C3H7NO
product | 1-(8-Fluoro-2-phenyl-quinolin-7-yl)-3-(5-methanesulfonylmethylthiazol-2-ylsulfanyl)-imidazo[1,5-a]pyrazin-8-ylamine | FC=1C(=CC=C2C=CC(=NC12)C1=CC=CC=C1)C=1N=C(N2C1C(=NC=C2)N)SC=2SC(=CN2)CS(=O)(=O)C | C26H19FN6O2S3
